US07906645B2
10% Palladium on carbon (900 mg) was added to tert-butyl (2R)-2-[(4-benzylpiperazin-1-yl)carbonyl]-4-cyclobutylpiperazine-1-carboxylate (5.12 g) and water (10 ml). Under an argon atmosphere, ethanol (250 μl) was added and the mixture stirred at room temperature under a hydrogen filled balloon. After 4 hours the catalyst was removed by filtration and washed with a small quantity of non-flammable solvent (dichloromethane). The combined filtrate was concentrated in vacuo, azeotroped once with toluene and dried under vacuum to give tert-butyl (2R)-4-cyclobutyl-2-(piperazin-1-ylcarbonyl)piperazine-1-carboxylate as an off-white foam (4.08 g).

reactant | tert-butyl (2R)-2-[(4-benzylpiperazin-1-yl)carbonyl]-4-cyclobutylpiperazine-1-carboxylate | 5.12 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)[C@@H]1N(CCN(C1)C1CCC1)C(=O)OC(C)(C)C | C25H38N4O3
reactant | water | 10 ml | O | H2O
catalyst | Palladium on carbon | 900 mg | [Pd] | Pd
solvent | ethanol | 250 μl | C(C)O | C2H6O
product | tert-butyl (2R)-4-cyclobutyl-2-(piperazin-1-ylcarbonyl)piperazine-1-carboxylate | 4.08 g | C1(CCC1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)N1CCNCC1 | C18H32N4O3
